* NGSPICE file created from DAC_CORE_5bit.ext - technology: gf180mcuD

.option scale=5n

.subckt DAC_CORE_5bit b[3] b[2] b[0] b[1] b[4] I_DAC DAC_REF VDD
X0 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X1 a_756_2140# b[3] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X2 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X3 I_DAC b[2] a_756_1612# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X4 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=4.94u ps=0.1007 w=400 l=1000
X5 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X6 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X7 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X8 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X9 a_756_1612# b[2] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X10 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X11 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X12 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X13 VDD DAC_REF a_756_2140# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X14 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X15 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X16 I_DAC b[3] a_756_2140# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X17 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X18 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X19 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X20 VDD DAC_REF a_756_2140# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X21 VDD DAC_REF a_1326_1084# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X22 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X23 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X24 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X25 VDD DAC_REF a_756_1612# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X26 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X27 I_DAC b[2] a_756_1612# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X28 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X29 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X30 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X31 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X32 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X33 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X34 VDD DAC_REF a_2174_1084# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X35 a_2174_1084# b[0] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X36 VDD DAC_REF a_756_2140# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X37 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X38 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X39 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X40 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X41 a_756_2140# b[3] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X42 I_DAC b[1] a_1326_1084# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X43 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X44 VDD DAC_REF a_756_1612# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X45 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X46 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X47 a_1326_1084# b[1] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X48 VDD DAC_REF a_756_2140# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X49 I_DAC b[3] a_756_2140# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X50 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X51 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X52 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X53 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X54 a_756_2140# b[3] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X55 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X56 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X57 I_DAC b[1] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=0.66924u ps=0.01888 w=156 l=56
X58 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X59 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X60 VDD DAC_REF a_756_2140# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X61 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X62 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X63 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X64 VDD DAC_REF a_756_2140# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X65 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X66 VDD DAC_REF a_1326_1084# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X67 I_DAC b[3] a_756_2140# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X68 VDD DAC_REF a_756_1612# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X69 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X70 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X71 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X72 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X73 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X74 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X75 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X76 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X77 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X78 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X79 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X80 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X81 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X82 a_756_2140# b[3] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X83 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X84 VDD DAC_REF a_756_2140# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X85 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X86 VDD DAC_REF VDD VDD pfet_03v3 ad=52n pd=1.06m as=0 ps=0 w=400 l=1000
X87 I_DAC b[4] a_756_3196# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X88 I_DAC b[3] a_756_2140# VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X89 VDD DAC_REF a_756_1612# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X90 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X91 a_756_3196# b[4] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X92 a_756_1612# b[2] I_DAC VDD pfet_03v3 ad=20.28n pd=0.572m as=20.28n ps=0.572m w=156 l=56
X93 VDD DAC_REF a_756_3196# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
X94 VDD DAC_REF a_756_2140# VDD pfet_03v3 ad=52n pd=1.06m as=52n ps=1.06m w=400 l=1000
C0 b[4] b[3] 0.31433f
C1 VDD b[0] 2.92727f
C2 a_756_3196# I_DAC 1.5147f
C3 a_756_1612# a_1326_1084# 3.04849f
C4 b[2] I_DAC 1.11962f
C5 b[0] a_756_1612# 0.12014f
C6 b[1] I_DAC 0.93235f
C7 a_756_3196# b[3] 0.08999f
C8 a_756_3196# a_1326_1084# 0.33641f
C9 a_756_2140# I_DAC 0.91535f
C10 b[2] b[3] 0.13418f
C11 DAC_REF a_1326_1084# 1.16095f
C12 b[1] a_1326_1084# 0.15382f
C13 b[2] b[0] 0.02804f
C14 a_2174_1084# I_DAC 0.06277f
C15 a_756_2140# b[3] 2.29912f
C16 VDD b[4] 4.22615f
C17 a_756_2140# a_1326_1084# 0.2421f
C18 b[1] b[0] 0.0603f
C19 VDD a_756_1612# 4.4914f
C20 a_2174_1084# a_1326_1084# 1.22736f
C21 a_2174_1084# b[0] 0.30623f
C22 a_756_3196# VDD 12.7725f
C23 b[2] VDD 1.01248f
C24 a_756_3196# b[4] 4.20244f
C25 VDD DAC_REF 93.4365f
C26 b[1] VDD 0.81641f
C27 VDD a_756_2140# 8.54591f
C28 a_756_3196# a_756_1612# 0.47686f
C29 b[2] a_756_1612# 0.59425f
C30 b[4] a_756_2140# 0.01639f
C31 a_2174_1084# VDD 1.43538f
C32 DAC_REF a_756_1612# 2.48016f
C33 b[1] a_756_1612# 0.34695f
C34 a_756_2140# a_756_1612# 1.68254f
C35 I_DAC b[3] 2.27907f
C36 a_756_3196# DAC_REF 7.43207f
C37 I_DAC a_1326_1084# 0.36311f
C38 a_2174_1084# a_756_1612# 0.09453f
C39 b[2] b[1] 0.10471f
C40 a_756_3196# a_756_2140# 3.35543f
C41 b[0] I_DAC 1.2146f
C42 b[2] a_756_2140# 0.46701f
C43 a_2174_1084# a_756_3196# 0.31556f
C44 a_756_2140# DAC_REF 5.58508f
C45 b[0] a_1326_1084# 0.14655f
C46 a_2174_1084# DAC_REF 1.2f
C47 a_2174_1084# a_756_2140# 0.58046f
C48 VDD I_DAC 3.46224f
C49 b[4] I_DAC 4.86012f
C50 VDD b[3] 1.94608f
C51 VDD a_1326_1084# 2.41813f
C52 I_DAC a_756_1612# 0.412f
C53 DAC_REF VSUBS 1.57134f
C54 b[0] VSUBS 0.06389f
C55 b[1] VSUBS 0.03737f
C56 b[2] VSUBS 0.02604f
C57 b[3] VSUBS 0.12309f
C58 I_DAC VSUBS 0.33696f
C59 b[4] VSUBS 0.49205f
C60 VDD VSUBS 0.27465p
C61 a_2174_1084# VSUBS 0.20715f ; **FLOATING
C62 a_1326_1084# VSUBS 0.12009f ; **FLOATING
C63 a_756_1612# VSUBS 0.07745f ; **FLOATING
C64 a_756_2140# VSUBS 0.48292f ; **FLOATING
C65 a_756_3196# VSUBS 0.7686f ; **FLOATING
.ends
